US06342765B1
A cooled (ice-bath) solution of 1-(4-fluorophenyl)-2-(2-methylimidazol-1-yl)ethanone (9.0 g, 41.3 mmol) in methanol (60 ml) was treated portionwise with sodium borohydride (1.56 g; 41.3 mmol) and the mixture stirred at ambient temperature for 16 hours. Most of the methanol was removed and water and ethyl acetate added. The organic layer was separated, the aqueous extracted with ethyl acetate (2×) and the combined organic extracts washed with water, brine, dried filtered and evaporated to give a residue which was triturated with diethyl ether to give 1-(4-fluorophenyl)-2-(2-methylimidazol-1-yl)ethanol (7.7 g, 84%).

reactant | 1-(4-fluorophenyl)-2-(2-methylimidazol-1-yl)ethanone | 41.3 mmol, 9.0 g | FC1=CC=C(C=C1)C(CN1C(=NC=C1)C)=O | C12H11FN2O
reactant | sodium borohydride | 41.3 mmol, 1.56 g | [BH4-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | 1-(4-fluorophenyl)-2-(2-methylimidazol-1-yl)ethanol | 7.7 g, 84% | FC1=CC=C(C=C1)C(CN1C(=NC=C1)C)O | C12H13FN2O
